US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.27 g of potassium carbonate and 3 ml of methanol was stirred while heating at 60° C. for two hours. The reaction mixture was concentrated under reduced pressure. Water was added thereto, which followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.21 g of 2-(3-methoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 37”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 ml | CO | CH4O
product | 2-(3-methoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.21 g | COC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H9F3N2O2
